US07982071B2
Alkylation of 2-methylbenzene-1,3-diol using (bromomethyl)cyclohexane following the method used in Example 154 gave 3-(cyclohexylmethoxy)-2-methylphenol. Yield (0.58 g, 37%): 1H NMR (400 MHz, CDCl3) δ 6.98 (t, J=8.0 Hz, 1H), 6.42 (t, J=7.6 Hz, 2H), 4.60 (bs, 1H), 3.72 (d, J=6.4 Hz, 2H), 2.12 (s, 3H), 1.68-1.89 (m, 6H), 1.16-1.35 (m, 3H), 1.01-1.11 (m, 2H).

reactant | 2-methylbenzene-1,3-diol | CC1=C(C=CC=C1O)O | C7H8O2
reactant | (bromomethyl)cyclohexane | BrCC1CCCCC1 | C7H13Br
product | 3-(cyclohexylmethoxy)-2-methylphenol | C1(CCCCC1)COC=1C(=C(C=CC1)O)C | C14H20O2
